US07199150B2
(4R)-4-Methyl-4-[2-(furan-2-yl)ethyl]-1,3-oxazolidin-2-one
To a suspension of 10% palladium-charcoal (50% wet with water) (1.00 g) in methanol (20 ml) was added a solution of (4R)-4-methyl-4-[2-(furan-2-yl)ethenyl]-1,3-oxazolidin-2-one (10.04 g, 52.0 mmol) obtained in Reference example 3 in methanol (180 ml) with stirring, and the resulting mixture was stirred at room temperature under a hydrogen atmosphere for 40 minutes. After stirring, the palladium-charcoal in the reaction mixture was filtered off using celite, and the filtrate was evaporated in vacuo. The residue obtained was purified by chromatography on a silica gel column using a mixed solvent of hexane and ethyl acetate (3:2–1:1) as the eluent to afford the title compound (7.95 g, yield: 78%).

reactant | (4R)-4-methyl-4-[2-(furan-2-yl)ethenyl]-1,3-oxazolidin-2-one | 52.0 mmol, 10.04 g | C[C@@]1(NC(OC1)=O)C=CC=1OC=CC1 | C10H11NO3
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 180 ml | CO | CH4O
catalyst | palladium-charcoal | 1.00 g | [Pd] | Pd
product | (4R)-4-Methyl-4-[2-(furan-2-yl)ethyl]-1,3-oxazolidin-2-one | 7.95 g, yield: 78% | C[C@@]1(NC(OC1)=O)CCC=1OC=CC1 | C10H13NO3
